US07569599B2
(3S)-1-Diphenylmethyl-3-tosyloxypyrrolidine
(3S)-1-Diphenylmethyl-3-hydroxypyrrolidine (4.00 g) was dissolved in methylene chloride (11 mL), and the solution was stirred under cooling with ice. Triethylamine (3.3 mL) was added dropwise to the reaction mixture, and p-toluenesulfonyl chloride (3.61 g) was added to the resultant mixture, followed by stirring at room temperature for 12 hours and then at 40° C. for 4.5 hours. Since the starting materials partially remained unconsumed, triethylamine (1.1 mL) and p-toluenesulfonyl chloride (1.5 g) were added to the reaction mixture and then stirred for 24 hours. The reaction mixture was extracted with water and chloroform, and the organic layer was dried over sodium sulfate. The drying agent was removed through filtration, and the filtrate was concentrated under reduced pressure, to thereby yield crystalline residue. The residue was subjected to silica gel chromatography, to thereby give the target compound (4.40 g, yield 68.5%). The thus-obtained compound was purified through recrystallization from isopropyl alcohol.

reactant | (3S)-1-Diphenylmethyl-3-hydroxypyrrolidine | 4.00 g | C1(=CC=CC=C1)C(N1C[C@H](CC1)O)C1=CC=CC=C1 | C17H19NO
reactant | Triethylamine | 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 3.61 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 11 mL | C(Cl)Cl | CH2Cl2
product | (3S)-1-Diphenylmethyl-3-tosyloxypyrrolidine | 4.40 g, yield 68.5% | C1(=CC=CC=C1)C(N1C[C@H](CC1)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=CC=C1 | C24H25NO3S
